US09216992B2
(3-Bromo-thieno[3,2-c]pyridin-4-yl)-pyridin-2-ylmethyl-amine
3-Bromo-4-chloro-thieno[3,2-c]pyridine (409 mg, 16.5 mmol) was dissolved in anhydrous EtOH (20 ml), and 2-picolylamine (184 μl, 17.9 mmol) and triethylamine (241 μl, 17.3 mmol) were added. The reaction was heated to reflux and this was maintained for 24 h. The reaction was then allowed to cool to room temperature. The solvent was removed in vacuo and the residue partitioned between DCM (20 ml) and a saturated sodium, chloride solution (20 ml). The organic layer was dried (MgSO4), filtered and the solvent removed in vacuo. The crude residue was subjected to flash column chromatography (eluent petroleum spirit 40-60° C.:EtOAc, 3:1, Rf 0.3). This afforded the title compound as a yellow solid (236 mg, 44%).

reactant | 3-Bromo-4-chloro-thieno[3,2-c]pyridine | 16.5 mmol, 409 mg | BrC1=CSC2=C1C(=NC=C2)Cl | C7H3BrClNS
reactant | 2-picolylamine | 17.9 mmol, 184 μl | N1=C(C=CC=C1)CN | C6H8N2
reactant | triethylamine | 17.3 mmol, 241 μl | C(C)N(CC)CC | C6H15N
solvent | EtOH | 20 ml | CCO | C2H6O
product | (3-Bromo-thieno[3,2-c]pyridin-4-yl)-pyridin-2-ylmethyl-amine | 236 mg, 44% | BrC1=CSC2=C1C(=NC=C2)NCC2=NC=CC=C2 | C13H10BrN3S
